US07504513B2
In a similar manner as described for Example 53, 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (41 mg, 0.1 mmol) and 4-amino-1,2,4-triazole (8.4 mg, 0.1 mmol, Aldrich) gave 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid [1,2,4]triazol-4-ylamide (2.4 mg, 5.0%) as a white solid. MS m/z 482 (M+1).

reactant | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 0.1 mmol, 41 mg | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
reactant | 4-amino-1,2,4-triazole | 0.1 mmol, 8.4 mg | NN1C=NN=C1 | C2H4N4
product | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid [1,2,4]triazol-4-ylamide | 2.4 mg, 5.0% | N=1N=CN(C1)NC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC(=CC=C2)Cl | C21H16ClN7O3S
